US07820821B2
To a solution of 3-methylthiophene-2-carboxylic acid (7 mmol) in anhydrous dioxane (20 mL) was added diphenyl phosphoryl azide (7 mmol), tert-butanol (6 mL) and TEA (1 mL). The resulting mixture was stirred at reflux for 16 h. The reaction mixture was cooled to room temperature, diluted with H2O (40 mL), and was extracted with EtOAc (3×20 mL). The combined extracts were dried (MgSO4) and the solvent was removed in vacuo. The residue obtained was purified by flash column chromatography using hexanes/EtOAc (7:3) as eluent to afford (3-methylthiophen-2-yl)-carbamic acid tert-butyl ester.

reactant | 3-methylthiophene-2-carboxylic acid | 7 mmol | CC1=C(SC=C1)C(=O)O | C6H6O2S
reactant | diphenyl phosphoryl azide | 7 mmol | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butanol | 6 mL | C(C)(C)(C)O | C4H10O
reactant | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 40 mL | O | H2O
product | (3-methylthiophen-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1SC=CC1C)=O | C10H15NO2S
